* source TRANSFORMER
L_L3         N13677 N11699  50mH  
C_C8         N06849 N166461  100n  
M_M1         N06903 N12971 0 0 IRFZ44
D_D1         N13677 N15990 MBR2540 
R_R1         N00044 N12971  51  
R_R2         N00050 N12966  51  
C_C7         N166650 N06903  100n  
Kn_K1         L_L1 L_L2 
+ L_L3    0.8 
R_R18         N166650 12V  51  
R_R19         N166461 12V  51  
D_D2         N11699 N15990 MBR2540 
D_D4         0 N11699 MBR2540 
R_R12         0 N00143  10k  
R_R11         0 N01577  100k  
R_R3         0 N00107  5.1k  
V_V1         12V 0 12Vdc
R_R4         N00116 N00100  510  
R_R5         N00143 N00138  6800k  
R_R7         N00245 0  1.8k  
R_R8         N00272 N00245  2k  
C_C1         0 N00100  2.2n  
C_C2         N00143 N00138  1n  
C_C3         0 N00128  1n  
D_D3         0 N13677 MBR2540 
L_L1         12V N06903  1000uH  
L_L2         N06849 12V  1000uH  
M_M2         N06849 N12966 0 0 IRFZ44
X_U1         N00143 N00245 N01577 N00100 N00128 N00138 0 N00044 0 12V N00050
+  12V N00272 SG1525 
+ PARAMS: PERIOD=20us DEADTIME=1us
R_R17         N12966 0  100  
R_R16         0 N12971  100  
R_R9         N00272 N00143  15k  
C_C6         0 N15990  100uF  
** Floating/unmodeled pin fixups **
R__UC0001   N00107  0   {1/GMIN}
R__UC0002   N00116  0   {1/GMIN}
